US07291619B2
A mixture of phenylboronic acid (5.12 g, 42 mmol), 2-bromophenol (3.55 g, 21 mmol), Cu(OAc)2 (7.63 g, 42 mmol), pyridine (8 ml, 103 mmol) and 4 Å molecular sieves (2.1 g) in CH2Cl2 was stirred at r.t. overnight. The mixture was diluted with CH2Cl2, filtered through celite, washed with 1M NaOH, brine and dried. Removal of solvent gave 1-bromo-2-phenoxybenzene, crystals (1.40 g, 27%). LRMS (ESI+): 248 (M+1). 1-Bromo-2-phenoxybenzene was coupled to piperazine using the Buchwald chemistry described in preparation 1A to afford the title compound. LRMS (ESI+) 255 (M+1)

reactant | phenylboronic acid | 42 mmol, 5.12 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-bromophenol | 21 mmol, 3.55 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | pyridine | 103 mmol, 8 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 42 mmol, 7.63 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 1-bromo-2-phenoxybenzene | BrC1=C(C=CC=C1)OC1=CC=CC=C1 | C12H9BrO
